US07576094B2
To a mixture of 7-ethyl-6-hydroxy-5-methylspiro[chroman-2,1′-cyclobutan]-4-one O-methyl oxime (530 mg) and BH3 pyridine complex (8 M, 2 mL) at 0° C., was added a solution of HCl in dioxane (4 M, 8 mL) at 1.5 mL/h. The mixture was cooled with ice-water bath, water was added to quench it, and extracted with ethyl acetate. The organic layer was washed with water, dried, and evaporated. The residue was purified by silica gel column eluting with 10% ethyl acetate in hexane, giving 7-ethyl-4-(hydroxy(methyl)amino)-5-methylspiro[chroman-2,1′-cyclobutan]-6-ol as a clear oil (412 mg) 1H-NMR (300 MHz, CDCl3) δ=6.57 (s, 1H), 5.25 (br., 1H), 4.30 (s, 1H), 3.63 (s, 3H), 2.67 (m, 4H), 2.2-1.7 (m, 9H), 1.19 (t, J=7.5 Hz, 3H) ppm. 13C-NMR (75 MHz, CDCl3) δ=148.20, 145.41, 131.08, 122.82, 115.47, 114.99, 61.94, 52.60, 35.63, 34.36, 32.54, 23.14, 13.76, 13.66, 11.41 ppm. MS (m/z)=231 (100, M−N(OH)CH3).

reactant | 7-ethyl-6-hydroxy-5-methylspiro[chroman-2,1′-cyclobutan]-4-one O-methyl oxime | 530 mg | CON=C1CC2(CCC2)OC2=CC(=C(C(=C12)C)O)CC | C16H21NO3
reactant | HCl | Cl | ClH
reactant | water | O | H2O
reactant | dioxane | 4 M, 8 mL | O1CCOCC1 | C4H8O2
product | 7-ethyl-4-(hydroxy(methyl)amino)-5-methylspiro[chroman-2,1′-cyclobutan]-6-ol | 412 mg | C(C)C1=C(C(=C2C(CC3(CCC3)OC2=C1)N(C)O)C)O | C16H23NO3
